US05157116
Preparation of METHYL 6-O-(2,3,6-TRI-O-BENZYL-4-DEOXY-4-TRIFLUOROMETHYLSULFONYLOXYMETHYL-α-D-GLUCOPYRANOSYL)-2,3,4-TRI-O-BENZYL-α-D-GLUCOPYRANOSIDE
To a solution of dry pyridine (0.46 mL) in dry methylene chloride (40 mL) cooled to -15° C. is added trifluoromethanesulfonic anhydride (0.86 mL). The mixture is stirred during 15 min at -10° C., then methyl 6-O-(2,3,6-tri-O-benzyl-4-deoxy-4-hydroxymethyl-α-D-glucopyranosyl)2,3,4-tri-O-benzyl-α-D-glucopyranoside (2.36 g, 2.593 mmol) in methylene chloride (10 mL) is added. The mixture is stirred during 1.5 h at -10° C. The reaction mixture is washed with water. The organic layer is dried over sodium sulfate, filtered and concentrated under reduced pressure so as to afford an oil which will be the expected triflate methyl 6-O-(2,3,6-tri-O-benzyl-4-deoxy-4-trifluoromethylsulfonyloxymethyl-α-D-glucopyranosyl)-2,3,4-tri-O-benzyl-α-D-glucopyranoside.

reactant | pyridine | 0.46 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 0.86 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | methyl 6-O-(2,3,6-tri-O-benzyl-4-deoxy-4-hydroxymethyl-α-D-glucopyranosyl)2,3,4-tri-O-benzyl-α-D-glucopyranoside | 2.593 mmol, 2.36 g | C(C1=CC=CC=C1)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)CO)COCC1=CC=CC=C1)OC[C@@H]1[C@H]([C@@H]([C@H]([C@@H](OC)O1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C56H62O11
reactant | triflate methyl 6-O-(2,3,6-tri-O-benzyl-4-deoxy-4-trifluoromethylsulfonyloxymethyl-α-D-glucopyranosyl)-2,3,4-tri-O-benzyl-α-D-glucopyranoside | C(C1=CC=CC=C1)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)COS(=O)(=O)C(F)(F)F)COCC1=CC=CC=C1)OC[C@@H]1[C@H]([C@@H]([C@H]([C@@H](OC)O1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1.OS(=O)(=O)C(F)(F)F
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | METHYL 6-O-(2,3,6-TRI-O-BENZYL-4-DEOXY-4-TRIFLUOROMETHYLSULFONYLOXYMETHYL-α-D-GLUCOPYRANOSYL)-2,3,4-TRI-O-BENZYL-α-D-GLUCOPYRANOSIDE | C(C1=CC=CC=C1)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)COS(=O)(=O)C(F)(F)F)COCC1=CC=CC=C1)OC[C@@H]1[C@H]([C@@H]([C@H]([C@@H](OC)O1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C57H61F3O13S
